US06225316B1
b) N-(3,5-Bis-trifluoromethyl-benzyl)-3-o-tolyl-isonicotinamide
To a solution of 0.28 g (1.17 mol) 3-o-tolyl-isonicotinic acid and 0.34 g (1.40 mmol) 3,5-bis(trifluoromethyl)benzylamine in 10 ml dichloromethane 0.38 ml N-methylmorpholine and 0.27 g (1.40 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added and the mixture stirred for 12 h. The phases were separated, the water phase extracted with three portions of dichloromethane. The combined organic phases were dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 0.26 g (51%) of the title compound as a colorless oil.

reactant | 3-o-tolyl-isonicotinic acid | 1.17 mol, 0.28 g | C1(=C(C=CC=C1)C1=C(C(=O)O)C=CN=C1)C | C13H11NO2
reactant | 3,5-bis(trifluoromethyl)benzylamine | 1.40 mmol, 0.34 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 1.40 mmol, 0.27 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3,5-Bis-trifluoromethyl-benzyl)-3-o-tolyl-isonicotinamide | 0.26 g, 51% | FC(C=1C=C(CNC(C2=C(C=NC=C2)C2=C(C=CC=C2)C)=O)C=C(C1)C(F)(F)F)(F)F | C22H16F6N2O
